US07902181B2
(1R,2R)-2-(4-Bromophenyl)-1-((S)-1-(tert-butoxycarbonyl)piperidine-2-carboxamido)cyclopropanecarboxylic Acid
To a stirred solution of (S)-tert-butyl 2-((1R,2R)-2-(4-bromophenyl)-1-(methoxycarbonyl)-cyclopropylcarbamoyl)piperidine-1-carboxylate (3 g) in THF (45 mL) and water (30 mL) was added lithium hydroxide monohydrate (0.298 g). The mixture was stirred at RT for 2 h. The mixture was partitioned between 0.1 N HCl(aq) and ethyl acetate, and the aqueous phase was extracted twice more with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated in vacuo to leave the title compound (2.90 g) as a white solid.

reactant | (S)-tert-butyl 2-((1R,2R)-2-(4-bromophenyl)-1-(methoxycarbonyl)-cyclopropylcarbamoyl)piperidine-1-carboxylate | 3 g | BrC1=CC=C(C=C1)[C@@H]1[C@](C1)(C(=O)OC)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C22H29BrN2O5
reactant | lithium hydroxide monohydrate | 0.298 g | O.[OH-].[Li+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | (1R,2R)-2-(4-Bromophenyl)-1-((S)-1-(tert-butoxycarbonyl)piperidine-2-carboxamido)cyclopropanecarboxylic Acid | 2.90 g | BrC1=CC=C(C=C1)[C@@H]1[C@](C1)(C(=O)O)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C21H27BrN2O5
